US09359371B2
In absolute anhydrous THF (10 mL) was dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (100 mg, 0.22 mmol). Triethylamine (0.22 g, 2.2 mmol) was added dropwisely, and 3-azabicyclo[3.1.0]hexan hydrochloride salt (42 mg, 0.35 mmol) was added. The reaction mixture was heated to reflux overnight. The solvent was removed by rotary evaporation, and water was added, followed by extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (DCM/methanol=20/1 to 10/1) to give a solid. The solid was dissolved in methanol (0.05 mL), and hydrochloric acid (1 mol/L) was added. The solvent was removed to give 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide hydrochloride (40 mg, 39% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.22 mmol, 100 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | Triethylamine | 2.2 mmol, 0.22 g | C(C)N(CC)CC | C6H15N
reactant | 3-azabicyclo[3.1.0]hexan hydrochloride salt | 0.35 mmol, 42 mg | Cl.C12CNCC2C1
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.05 mL | CO | CH4O
product | 2-(3-azabicyclo[3.1.0]hexan-3-yl)-4-((3-chloro-4-methoxybenzyl)amino)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide hydrochloride | 40 mg, 39% yield | Cl.C12CN(CC2C1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)NCC1=NC=CC=N1 | InChI=1S/C23H24ClN7O2.ClH/c1-33-19-4-3-14(7-18(19)24)9-27-21-17(22(32)28-11-20-25-5-2-6-26-20)10-29-23(30-21)31-12-15-8-16(15)13-31;/h2-7,10,15-16H,8-9,11-13H2,1H3,(H,28,32)(H,27,29,30);1H
